US09060519B2
To a suspension of sodium hydride (NaH, 60% dispersion in mineral oil: 48 mg, 1.2 mmol) in DMF (2 ml) was added a solution of 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone oxime (253.7 mg, 1 mmol) in DMF (3 ml), and the resulting frothy mixture was stirred for 1 hour. After that, 4,6-dimethoxy-2-methylsulfonyl-pyrimidine (218 mg, 1 mmol) was added into the above solution. The homogeneous, dark-red solution was stirred at ambient temperature for 18 hours. The precipitated brown solid was filtered and washed with water and dried under vacuum to afford the brown solid of 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]-N-(4,6-dimethoxypyrimidin-2-yl)oxy-ethanimine in a mixture of Z and E-isomers. 1H NMR (300 Mz, CDCl3): δ: 9.16 (s, 1H), 8.70 (d, 1H, J=4.8 Hz), 8.24 (m, 1H), 7.41 (m, 1H), 5.84 (m, 1H), 3.97 (m, 6H), 2.79 (m, 2H). MS (ESI): 392 (M+1), 414 (M+Na).

reactant | sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone oxime | 1 mmol, 253.7 mg | ClC=1N=C(SC1C(C)=NO)C=1C=NC=CC1 | C10H8ClN3OS
reactant | 4,6-dimethoxy-2-methylsulfonyl-pyrimidine | 1 mmol, 218 mg | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]-N-(4,6-dimethoxypyrimidin-2-yl)oxy-ethanimine | ClC=1N=C(SC1C(C)=NOC1=NC(=CC(=N1)OC)OC)C=1C=NC=CC1 | C16H14ClN5O3S
